US08859781B2
Sodium iodide (20.69 g, 138.0 mmol) was added to the crude solution of chloroethyl isopropyl carbonate (5.11 g, 30.67 mmol) in acetonitrile (50 mL). The resulting mixture was heated to 60° C. for 2 hours and then allowed to cool to 25° C. The reaction mixture was concentrated under reduced pressure and the resulting mixture was treated with diethyl ether. The solids were filtered off and the filtrate was concentrated under reduced pressure to obtain 1-iodoethyl isopropyl carbonate as a dark orange oil (5.43 g, 69% yield).

reactant | Sodium iodide | 138.0 mmol, 20.69 g | [I-].[Na+]
reactant | chloroethyl isopropyl carbonate | 30.67 mmol, 5.11 g | C(OCCCl)(OC(C)C)=O | C6H11ClO3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-iodoethyl isopropyl carbonate | 5.43 g, 69% yield | C(OC(C)I)(OC(C)C)=O | C6H11IO3
